US08466282B2
28%-Sodium metholate-methanol solution (4.4 ml) was diluted with methanol (5 ml), and cooled to −20° C. A solution of (2E)-3-(2-methoxyphenyl)prop-2-enal (2.4 g) and ethyl azidoacetate (7.5 g) in methanol (8 ml) was added over 30 min, and the mixture was stirred at −10° C. for 1 hr and at room temperature for 2 hr. The reaction mixture was poured into water and extracted with ether. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:4) was concentrated under reduced pressure to give methyl(2Z,4E)-2-azido-5-(2-methoxyphenyl)penta-2,4-dienoate (3.6 g). A part (3.5 g) thereof was dissolved in chloroform (10 ml), zinc iodide (214 mg) was added and the mixture was stirred at room temperature for 12 hr. The reaction mixture was poured into water, and extracted with 1,2-dichloroethane. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:4) was concentrated under reduced pressure to give the object product (3.26 g).

reactant | (2E)-3-(2-methoxyphenyl)prop-2-enal | 2.4 g | COC1=C(C=CC=C1)/C=C/C=O | C10H10O2
reactant | ethyl azidoacetate | 7.5 g | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
reactant | water | O | H2O
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 8 ml | CO | CH4O
product | methyl(2Z,4E)-2-azido-5-(2-methoxyphenyl)penta-2,4-dienoate | 3.6 g | N(=[N+]=[N-])\C(\C(=O)OC)=C/C=C/C1=C(C=CC=C1)OC | C13H13N3O3
